US06333324B1
Ethyl 1-tert-butoxycarbonyl-1,4,5,6-tetrahydropyrazinecarboxylate (60 g) was dissolved in AcOH (400 ml), and the solution was subjected to catalytic reduction using 10% palladium on carbon (12 g)-H2O (30 ml), in hydrogen at 3 atm for 4 hours. The catalyst was removed by filtration and the filtrate was concentrated under reduced pressure. The residue was dissolved in AcOEt (1000 ml), and the organic layer was washed with saturated aqueous NaHCO3 solution by stirring carefully to avoid foaming. The organic layer was further washed with saturated brine, and dried over anhydrous MgSO4. The solvent was evaporated under reduced pressure to give 59.2 g of ethyl 1-tert-butoxycarbonyl-2-piperazinecarboxylate as an oil (yield 97.9%).

reactant | Ethyl 1-tert-butoxycarbonyl-1,4,5,6-tetrahydropyrazinecarboxylate | 60 g | C(C)(C)(C)OC(=O)N1C(=CNCC1)C(=O)OCC | C12H20N2O4
reactant | H2O | 30 ml | O | H2O
solvent | AcOH | 400 ml | CC(=O)O | C2H4O2
catalyst | palladium on carbon | 12 g | [Pd] | Pd
solvent | hydrogen | [H][H] | H2
product | ethyl 1-tert-butoxycarbonyl-2-piperazinecarboxylate | 59.2 g, yield 97.9% | C(C)(C)(C)OC(=O)N1C(CNCC1)C(=O)OCC | C12H22N2O4
